US07531532B2
Pyrrolidine-1-carboxylic acid {4-[3-chloro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide
Pyrrolidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide (20 mg) was dissolved in N,N-dimethylformamide (1.0 ml), and then a solution of phenylacetyl isocyanate in hexane (0.019 ml, Production Example 1) was added thereto, followed by stirring at room temperature for 1 hr. To the reaction mixture was added ethyl acetate and water to partition. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then suspended in ethyl acetate:methanol=1:1. The solid was filtered off, washed with methanol, and dried under aeration to provide the titled compound (10 mg, 34%) as pale yellow powder.

reactant | Pyrrolidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide | 20 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)Cl | C16H17ClN4O2
reactant | phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | Pyrrolidine-1-carboxylic acid {6-[2-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}amide | 0.019 ml | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C24H23FN6O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Pyrrolidine-1-carboxylic acid {4-[3-chloro-4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}amide | 10 mg, 34% | ClC=1C=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC1NC(=O)NC(CC1=CC=CC=C1)=O | C25H24ClN5O4
